US06617304B1
A 13.1 g (48.1 mmol) portion of methyl 15-hydroxypentadecanoate, 45.1 g (100 mmol) of polyoxyethylene lauryl ether {average addition mol number 6} and 1.0 g of magnesium oxide were put into the same apparatus of Inventive Example 1, and the reaction was carried out under ambient pressure to 1.3 kPa and at 190 to 245° C. for 3 hours, while distilling out methanol, and then under 53 Pa and at 160 to 260° C. to obtain 19.5 g of a colorless to light yellow liquid. This distillate contained 11.0 g of cyclopentadecanolide (yield 95%).

reactant | methyl 15-hydroxypentadecanoate | OCCCCCCCCCCCCCCC(=O)OC | C16H32O3
reactant | polyoxyethylene lauryl ether | 100 mmol, 45.1 g | C(CCCCCCCCCCC)OCCCCCCCCCCCC.O(CC[*:2])[*:1]
reactant | magnesium oxide | 1.0 g | [O-2].[Mg+2]
product | cyclopentadecanolide | 11.0 g, yield 95% | C1CCCCCCCOC(=O)CCCCCC1 | C15H28O2
